US09193695B2
4-[1-(4-Bromophenyl)propan-2-yl]morpholine
1-(4-Bromophenyl)propan-2-one (2.03 g) was dissolved in CHCl3 (40 mL), and morpholine (1.24 mL) was added thereto, followed by stirring at room temperature overnight and then at 60° C. for 4 hours. NaBH(OAc)3 (4.03 g) and acetic acid (1.1 mL) were sequentially added thereto, followed by stirring overnight. The reaction was terminated by addition of water, and the reaction solution was separated between CHCl3 and a saturated aqueous NaHCO3 solution. The residue was purified by silica gel column chromatography (mobile phase: CHCl3/EtOAc=80/20 to 60/40 (v/v)) to yield the title compound (1.67 g, colorless oil).

reactant | 1-(4-Bromophenyl)propan-2-one | 2.03 g | BrC1=CC=C(C=C1)CC(C)=O | C9H9BrO
reactant | morpholine | 1.24 mL | N1CCOCC1 | C4H9NO
reactant | NaBH(OAc)3 | 4.03 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetic acid | 1.1 mL | C(C)(=O)O | C2H4O2
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[1-(4-Bromophenyl)propan-2-yl]morpholine | 1.67 g | BrC1=CC=C(C=C1)CC(C)N1CCOCC1 | C13H18BrNO
